US05091553
As described in Example 17, but using 63 g of 1-octadecylmercaptan (0.22 mol) dissolved in 30 ml of N-methylpyrrolidone, S-octadecyl thiocarbamate was obtained in a yield of 60% of theory.

reactant | 1-octadecylmercaptan | 0.22 mol, 63 g | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | N-methylpyrrolidone | 30 ml | CN1C(CCC1)=O | C5H9NO
product | S-octadecyl thiocarbamate | yield of 60% | C(N)(SCCCCCCCCCCCCCCCCCC)=O | C19H39NOS
